US04119710
1-(4'-Amino-3',5'-dicyano-phenyl)-2-sec.butylamino-ethanol,
m.p. of the hydrochloride: 197°-199° C., was prepared from 4'-amino-2-sec.butylamino-3',5'-dicyano-acetophenone analogous to Example 48.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-2-sec.butylamino-3',5'-dicyano-acetophenone | NC1=C(C=C(C=C1C#N)C(CNC(C)CC)=O)C#N | C14H16N4O
product | 1-(4'-Amino-3',5'-dicyano-phenyl)-2-sec.butylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC(C)CC)O)C#N | C14H18N4O
